US06251926B1
Triethylamine (7.28 ml) was added to a solution of α-chlorobenzaldehyde oxime (4.04 g) and 2-propyn-1-ol (1.66 ml) in tetrahydrofuran (130 ml) and stirred at room temperature for 4 days. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The remaining crystals were recrystallized from ethyl acetate-hexane to obtain (3-phenyl-5-isoxazolyl)methanol (3.42 g, yield 75%) as colorless crystals. m.p. 48-49° C.

reactant | Triethylamine | 7.28 ml | C(C)N(CC)CC | C6H15N
reactant | α-chlorobenzaldehyde oxime | 4.04 g | ClC(C1=CC=CC=C1)=NO | C7H6ClNO
reactant | 2-propyn-1-ol | 1.66 ml | C(C#C)O | C3H4O
reactant | Water | O | H2O
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | (3-phenyl-5-isoxazolyl)methanol | 3.42 g, yield 75% | C1(=CC=CC=C1)C1=NOC(=C1)CO | C10H9NO2
